US04471116
As described in Example 19, 1-benzyloxy-4-(4-bromobutoxy)benzene was reacted with isopropylamine at 100° (12 hours; 500 psi) to give 1-benzyloxy-4-[4-(1-methylethyl)aminobutoxyl]benzene. The crude product was not distilled.

reactant | 1-benzyloxy-4-(4-bromobutoxy)benzene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCCCBr | C17H19BrO2
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 1-benzyloxy-4-[4-(1-methylethyl)aminobutoxyl]benzene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCCCNC(C)C | C20H27NO2
